US06291203B1
Preparation of 5,6-dichloro-2-methylbenzimidazole (Compound 1)
A mixture of 4,5-dichloro-1,2-phenylenediamine (25 g, 0.14 mol) and a catalytic amount of p-toluenesulfonic acid suspended in toluene (200 mL) is heated to reflux in a 500 mL three-necked flask fitted with a reflux condenser and addition funnel. Triethyl orthoacetate (23 g, 0.14 mol) is added dropwise over the course of 2 hours. The reflux condenser is then replaced with a distillation head and approximately 50 mL of solvent (mixture of ethanol and toluene) is collected. The remaining reaction mixture is allowed to stand at room temperature overnight. The resulting solid is collected by suction filtration and dried under vacuum for 24 hrs. The product is used without further purification.

reactant | 4,5-dichloro-1,2-phenylenediamine | 0.14 mol, 25 g | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Triethyl orthoacetate | 0.14 mol, 23 g | C(C)(OCC)(OCC)OCC | C8H18O3
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 5,6-dichloro-2-methylbenzimidazole | ClC1=CC2=C(N=C(N2)C)C=C1Cl | C8H6Cl2N2
